US07745641B2
In a similar manner to Step 1 of Example 429, 4-chloro-5-hydroxy-7-iodoisoindolinone (70.8 mg, 0.229 mmol) was dissolved in DMF (2.1 mL), and the solution was treated with potassium carbonate (94.8 mg, 0.686 mmol), tetrabutylammonium iodide (8.5 mg, 0.023 mmol) and (4-bromo-2-methyl-2-butoxy)triethylsilane (193 mg, 0.686 mmol), followed by purification by flash column chromatography (chloroform/methanol=99/1) to obtain 4-chloro-5-[3-methyl-3-(triethylsiloxy)butoxy]-7-iodoisoindolinone (40.7 mg, yield 35%).

reactant | 4-chloro-5-hydroxy-7-iodoisoindolinone | 0.229 mmol, 70.8 mg | ClC1=C2CNC(C2=C(C=C1O)I)=O | C8H5ClINO2
reactant | potassium carbonate | 0.686 mmol, 94.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (4-bromo-2-methyl-2-butoxy)triethylsilane | 0.686 mmol, 193 mg | BrCCC(C)(O[Si](CC)(CC)CC)C | C11H25BrOSi
solvent | DMF | 2.1 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.023 mmol, 8.5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-chloro-5-[3-methyl-3-(triethylsiloxy)butoxy]-7-iodoisoindolinone | 40.7 mg, yield 35% | ClC1=C2CNC(C2=C(C=C1OCCC(C)(O[Si](CC)(CC)CC)C)I)=O | C19H29ClINO3Si
